US07351719B2
132a) ethyl 2-(4-bromo-2-methoxy-phenoxy)-acetate
Prepared analogously to Intermediate product Z2a from ethyl bromo-acetate and 2-methoxy-4-bromophenol.

reactant | ethyl bromo-acetate | BrCC(=O)OCC | C4H7BrO2
reactant | 2-methoxy-4-bromophenol | COC1=C(C=CC(=C1)Br)O | C7H7BrO2
product | ethyl 2-(4-bromo-2-methoxy-phenoxy)-acetate | BrC1=CC(=C(OCC(=O)OCC)C=C1)OC | C11H13BrO4
